US08211919B2
To a solution of N-(4-bromophenyl)-2-hydroxy-3-phenylpropanamide (1.5 g) in dichloromethane (60 mL) and tetrahydrofuran (30 mL) were added diisopropylethylamine (908 mg) and 4-dimethylaminopyridine (114 mg), followed by dropwise addition of methanesulfonyl chloride (805 mg) at 5° C. and the mixture was stirred at ambient temperature for 20 hours. The mixture was poured into water and concentrated in vacuo. The residue was extracted with ethyl acetate, washed with brine, dried over magnesium sulfate, and evaporated in vacuo to afford crude 1-benzyl-2-[(4-bromophenyl)amino]-2-oxoethyl methanesulfonate. The crude methanesulfonate was dissolved in N,N-dimethylformamide (30 mL) and 4-piperidinol (1.19 g) was added. The mixture was stirred at 80° C. for 5 hours and poured into water. The mixture was extracted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with ethyl acetate to afford N-(4-bromophenyl)-2-(4-hydroxypiperidin-1-yl)-3-phenylpropanamide (894 mg) as a powder.

reactant | N-(4-bromophenyl)-2-hydroxy-3-phenylpropanamide | 1.5 g | BrC1=CC=C(C=C1)NC(C(CC1=CC=CC=C1)O)=O | C15H14BrNO2
reactant | diisopropylethylamine | 908 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 805 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 114 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-benzyl-2-[(4-bromophenyl)amino]-2-oxoethyl methanesulfonate | CS(=O)(=O)OC(C(=O)NC1=CC=C(C=C1)Br)CC1=CC=CC=C1 | C16H16BrNO4S
